US09062059B2
((1S,2S)-2-(6,7-dihydro-5H-cyclopenta[b]pyridin-2-yl)cyclopropyl)methanol (S-6)
To a stirred solution of S-5 (3.19 g, 10.5 mmol) in THF (40 mL) was added tetrabutyl ammonium fluoride solution 1M (10.5 mL, 10.5 mmol). The resulting mixture was stirred 2 hours at room temperature and concentrated. Flash column separation using a 10-100% ethyl acetate/hexane gradient gave S-6 as an oil. (1.44 g, 72%)

reactant | tetrabutyl ammonium fluoride | 10.5 mmol, 1M, 10.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | ((1S,2S)-2-(6,7-dihydro-5H-cyclopenta[b]pyridin-2-yl)cyclopropyl)methanol | N1=C2C(=CC=C1[C@@H]1[C@H](C1)CO)CCC2 | C12H15NO
